US09193728B2
Preparation of 7-methyl-2-phenyl-3,4-dihydro-2H-benzo[b][1,4]oxazine
7-Methyl-2-phenyl-2H-benzo[b][1,4]oxazin-3(4H)-one (2.2 g) was dissolved in THF (40 mL), and the mixture was cooled to 0° C. Borane-DMS (2.7 g) was added dropwise under inert atmosphere. After addition, the reaction mixture was heated to 70° C. for 4 h. The reaction was monitored by TLC. After completion of reaction, the mixture was cooled, and to it was added 1N HCl (50 mL). The reaction mixture was basified to pH 12 with NaOH solution and then extracted with EtOAc (3×100 mL). The organic layer was dried over sodium sulfate and concentrated under reduced pressure. The crude product was purified by column chromatography using silica (100-200 mesh size) using 8% EtOAc/Hexane as eluent, to provide 1.1 g of pure product.

reactant | 7-Methyl-2-phenyl-2H-benzo[b][1,4]oxazin-3(4H)-one | 2.2 g | CC=1C=CC2=C(OC(C(N2)=O)C2=CC=CC=C2)C1 | C15H13NO2
reactant | Borane DMS | 2.7 g | B.CSC
reactant | HCl | 1N, 50 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 7-methyl-2-phenyl-3,4-dihydro-2H-benzo[b][1,4]oxazine | 1.1 g | CC=1C=CC2=C(OC(CN2)C2=CC=CC=C2)C1 | C15H15NO
